US09101783B2
Preparation of the Cys-Gly Precursor (Enzyme Substrate)
DTNB (5,5′-Dithio-bis-(2-nitrobenzoic acid; MM=396.36 g/mol) was prepared at 3.9 mg/ml (equivalent to 10 mM) in potassium phosphate buffer 50 mM, pH=7.5+0.1 mM EDTA. The reagent was used at 0.5 mM final concentration.

reactant | DTNB | C1=CC(=C(C=C1SSC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C(=O)O)[N+](=O)[O-] | C14H8N2O8S2
reactant | EDTA | 0.1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | potassium phosphate | 50 mM, pH=7.5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | Cys-Gly | C([C@@H](C(=O)NCC(=O)O)N)S | C5H10N2O3S
